US06890924B2
2-Dimethylamino-N-(3-{4-[3-methyl-4-(pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-prop-2-ynyl)-acetamide:
To a solution of 2-Chloro-N-(3-{4-[3-methyl-4-(pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-prop-2-ynyl)-acetamide (99 mg, 0.20 mmol) in MeOH (5 mL) was added a solution dimethylamine in THF (2 mL, 4.0 mmol). The resulting solution was refluxed under nitrogen for 1 hour. After concentration, the residue was further dried, dissolved in MeOH (1.0 mL), and treated with HCl gas for 3 minutes. The resulting solution was added to EtOAc with vigorous stirring to precipitate the HCl salt product as yellow solid which was collected by vacuum-filtration, rinsed with EtOAc, and further dried to give 110 mg (99%) of the title compound. 1H NMR (CD3OD) δ 2.30 (s, 3H), 2.96 (s, 6H), 4.03 (s, 2H), 4.37 (s, 2H), 7.27 (d, 1H), 7.72 (dt, 1H), 7.81(m, 1H), 7.84 (d, 1H), 8.03 (dd, 1H), 8.06 (d, 1H), 8.13 (dd, 1H), 8.59 (d, 1H), 8.68 (s, 1H), 8.81 (s, 1H), 8.84 (s, 1H); MS m/z (MH+) 467.3.

reactant | 2-Chloro-N-(3-{4-[3-methyl-4-(pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-prop-2-ynyl)-acetamide | 0.20 mmol, 99 mg | ClCC(=O)NCC#CC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OC=1C=NC=CC1)C | C25H20ClN5O2
reactant | dimethylamine | CNC | C2H7N
reactant | THF | 4.0 mmol, 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 5 mL | CO | CH4O
product | 2-Dimethylamino-N-(3-{4-[3-methyl-4-(pyridin-3-yloxy)-phenylamino]-quinazolin-6-yl}-prop-2-ynyl)-acetamide | 110 mg, 99% | CN(CC(=O)NCC#CC=1C=C2C(=NC=NC2=CC1)NC1=CC(=C(C=C1)OC=1C=NC=CC1)C)C | C27H26N6O2
